US06949562B2
A solution of 2-(2-Hydroxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester (866 mg, 2.99 mmol) in CH2Cl2 (6 mL) at 0° C. under N2 is treated with pyridine (0.73 mL, 8.98 mmol) followed by methanesulfonyl chloride (0.28 mL, 3.59 mmol). The reaction mixture is stirred at 0° C. for 10 min. and at room temperature for 4 h. The reaction mixture is then concentrated in vacuo. The crude 2-(2-methanesulfonyloxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester is used without further purification. Electrospray mass spectrum: m/z 366 [M−1]. Step 2: To a solution of 2-(2-methanesulfonyloxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester (158 mg, 0.43 mmol) in CH3CN is added excess diethylamine (>3 eq) and excess K2CO3. The reaction mixture is stirred overnight at 83° C. in a sealed tube. The reaction mixture is then extracted with CH2Cl2 and washed with water. The aqueous wash is then extracted twice more with CH2Cl2. The combined extracts are dried over K2CO3 and concentrated. The crude material is purified by flash chromatography on silica gel, affording 107 mg (72%) of 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester. Electrospray mass spectrum: m/z 343 [M−1]; 1H NMR (CDCl3, 300 MHz) δ 8.78 (br, 1H), 7.17 (d, J=2.7 Hz, 1H), 7.15 (s, 1H), 4.27 (q, J=7.2 Hz, 2H), 4.12 (t, J=7.2 Hz, 2H), 2.91 (m, 2H), 2.81 (m, 2H), 2.65 (m, 2H), 2.59 (q, J=7.2 Hz, 4H), 1.94 (m, 2H), 1.31 (t, J=7.2 Hz, 3H), 1.02 (t, J=7.2 Hz, 6H). Step 3: To a mixture of 2-amino-1,3,4-thiazole (81 mg, 0.798 mmol) in CH2Cl2 (2 mL) at 0° C. under N2 is added 2.0 M trimethylaluminum in toluene (0.4 mL, 0.798 mmol). The mixture is then stirred at room temperature for 1 hr. To the resulting solution is added a solution of 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester (55 mg, 0.16 mmol) in CH2Cl2 (1.0 mL) via cannula, followed by a 0.5 mL rinse. The reaction mixture is then stirred at reflux for 4 h. After cooling, the reaction mixture is quenched by the addition of a small amount of 2.0 M aq NaOH and water. A small amount of MeOH is added, and the resulting mixture is stirred vigorously for 30 min. The mixture is filtered through a pad of Celite, washing with CH2Cl2 containing some (˜5%) MeOH. The filtrate is concentrated, and the residue is purified by preparative thin-layer chromatography (silica gel). Two developments using 20:1 CHCl3—MeOH (+1% triethylamine) affords 53 mg (83%) of 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid [1,3,4]thiadiazol-2-ylamide as an off-white solid. Electrospray mass spectrum: m/z 398 [M−1]; 1H NMR (CDCl3, 300 MHz) δ 9.14 (br, 1H), 8.79 (s, 1H), 7.71 (d, J=3.0 Hz, 1H), 7.26 (d, J=0.6 Hz, 1H), 4.37 (m, 2H), 3.06 (m, 2H), 3.00 (m, 2H), 2.79 (m, 2H), 2.61 (q, J=7.2 Hz, 4H), 1.97 (m, 2H), 0.99 (t, J=7.2 Hz, 6H). The solid is dissolved in 3-4 mL of EtOH and treated with ˜3 eq of 1.0 M HCl in Et2O. The solution is stirred for 10 min. and then concentrated to remove most of the EtOH. Methyl tert-butyl ether is added, and the resulting precipitate is granulated and filtered. The solid is washed with Et2O and dried under a stream of N2 to afford 54 mg (77%) of the hydrochloride salt of 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid [1,3,4]thiadiazol-2-ylamide. Electrospray mass spectrum: m/z 398 [M−1]; 1H NMR (CD3OD, 300 MHz) δ 11.32 (br, 1H), 9.22 (s, 1H), 7.67 (d, J=3.0 Hz, 1H), 7.64 (s, 1H), 4.71 (m, 2H), 4.02 (m, 2H), 3.37 (q, J=7.2 Hz, 4H), 3.05 (m, 2H), 2.85 (m, 2H), 1.99 (m, 2H), 1.33 (t, J=7.2 Hz, 6H).

reactant | 2-(2-Hydroxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 2.99 mmol, 866 mg | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)CCO | C15H19N3O3
reactant | pyridine | 8.98 mmol, 0.73 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 3.59 mmol, 0.28 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(2-methanesulfonyloxy-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 0.43 mmol, 158 mg | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)CCOS(=O)(=O)C | C16H21N3O5S
reactant | diethylamine | >3 eq | C(C)NCC | C4H11N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | CC#N | C2H3N
product | 2-(2-diethylamino-ethyl)-4,5,6,7-tetrahydro-2H-1,2,7-triaza-cyclopenta[e]azulene-9-carboxylic acid ethyl ester | 107 mg, 72% | C(C)OC(=O)C1=CNC=2CCCC=3C(C12)=NN(C3)CCN(CC)CC | C19H28N4O2
